US04885025
While maintaining a temperature of 5° C. to 10° C., 1.03 g (0.015 mole) of sodiuM nitrite dissolved in 10 ml of water was added to a stirred mixture of 4.76 g (0.0125 mole) of 1-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-1,4-dihydro-4-(3-fluoropropyl)-5H-tetrazol-5-one (prepared by the method of Steps A and B of Example 1 in 6 ml of concentrated sulfuric acid. The resultant mixture was stirred at 6° C. for 30 minutes. This mixture was added to a refluxing mixture of 37.5 g (0.150-mole) of copper II sulfate in 70 ml of xylene/toluene (50/50) and 100 ml of water. After complete addition, the mixture was stirred and heated at reflux for one hour. The mixture was cooled to room temperature and the phases were allowed to separate. The organic phase was extracted with an aqueous sodium hydroxide solution (6.0 g of sodium hydroxide in 250 ml of water). The basic extract was acidified with concentrated hydrochloric acid forming a precipitate. This mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 1.35 g of 1-[4-chloro-2-fluoro-5-(4-hydroxyphenoxy)phenyl]-1,4-dihydro-4-(3-fluoropropyl)-5H-tetrazol-5-one as a solid, m.p. 157°-159° C., compound 3 of Table 1.

reactant | sodiuM nitrite | 0.015 mole, 1.03 g | N(=O)[O-].[Na+]
reactant | 1-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-1,4-dihydro-4-(3-fluoropropyl)-5H-tetrazol-5-one | 0.0125 mole, 4.76 g | NC1=CC=C(OC=2C(=CC(=C(C2)N2N=NN(C2=O)CCCF)F)Cl)C=C1 | C16H14ClF2N5O2
solvent | water | 10 ml | O | H2O
solvent | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | xylene toluene | 70 ml | C=1(C(=CC=CC1)C)C.C1(=CC=CC=C1)C
solvent | water | 100 ml | O | H2O
catalyst | copper II sulfate | 0.150-mole, 37.5 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | 1-[4-chloro-2-fluoro-5-(4-hydroxyphenoxy)phenyl]-1,4-dihydro-4-(3-fluoropropyl)-5H-tetrazol-5-one | 1.35 g | ClC1=CC(=C(C=C1OC1=CC=C(C=C1)O)N1N=NN(C1=O)CCCF)F | C16H13ClF2N4O3
